US08563575B2
138c) [1-ethyl-2-oxo-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl]methyl acetate
A mixture of 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide (1 g) and Ac2O (20 mL) was stirred at 80° C. for 2 h, and concentrated in vacuo. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (0.49 g).

reactant | 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide | 1 g | C(C)N1C(N(C2=[N+](C=CC(=C21)C)[O-])C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)=O | C24H35N3O3Si
reactant | Ac2O | 20 mL | CC(=O)OC(=O)C | C4H6O3
product | [1-ethyl-2-oxo-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yl]methyl acetate | 0.49 g | C(C)(=O)OCC1=C2C(=NC=C1)N(C(N2CC)=O)C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C | C26H37N3O4Si
